US04559352
The intermediate 2-(3,4-dimethoxyphenyl)-3-dimethylamino-2-propenal was prepared as follows: To a chilled 1260 ml. portion of dimethylformamide was added dropwise 230 ml. of phosphorus oxychloride followed by addition of 196 g. of α-(3,4-dimethoxyphenyl)acetic acid. The reaction mixture was heated at about 70° C. on a steam both for 3 hours, allowed to cool and then concentrated in vacuo to remove the solvent and excess volatile reactants. The resulting product was used directly in the above procedure.

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | α-(3,4-dimethoxyphenyl)acetic acid | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(3,4-dimethoxyphenyl)-3-dimethylamino-2-propenal | COC=1C=C(C=CC1OC)C(C=O)=CN(C)C | C13H17NO3
